US07642270B2
A. {4-[1-(2-Dimethylamino-acetyl)-piperidin-4-yl]-phenyl}-carbamic acid tert-butyl ester
Dimethylamino-acetyl chloride (0.14 g, 0.86 mmol) and (4-piperidin-4-yl-phenyl)-carbamic acid tert-butyl ester (0.20 g, 0.72 mmol) were combined in CH2Cl2 (5 mL) and triethylamine (0.21 g, 2.2 mmol) was added. After 6 h, water (5 mL) was added. The reaction mixture was extracted with CH2Cl2 (3×5 mL) and the combined organic extracts were dried (MgSO4) and concentrated. The compound was found to be unstable on silica and therefore carried on without further purification. 1H NMR (400 MHz, CDCl3) δ (ppm): 9.04 (s, 1H), 7.52 (d, 2H, J=8.5 Hz), 7.16 (d, 2H, J=8.5 Hz), 3.06 (s 2H), 2.76-2.82(m, 2H), 2.59-2.65 (m, 1H), 2.37 (s, 6H), 1.78-1.81 (m, 2H), 1.54-1.64 (m, 2H), 1.48 (s, 9H), 1.30 (br s, 2H).

reactant | Dimethylamino-acetyl chloride | 0.86 mmol, 0.14 g | CN(C)CC(=O)Cl | C4H8ClNO
reactant | (4-piperidin-4-yl-phenyl)-carbamic acid tert-butyl ester | 0.72 mmol, 0.20 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)C1CCNCC1)=O | C16H24N2O2
reactant | triethylamine | 2.2 mmol, 0.21 g | C(C)N(CC)CC | C6H15N
reactant | water | 5 mL | O | H2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | {4-[1-(2-Dimethylamino-acetyl)-piperidin-4-yl]-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)C1CCN(CC1)C(CN(C)C)=O)=O | C20H31N3O3
